US07378417B2
7-Difluoromethyl-5-(3-ethoxy-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-cyclopropylsulfamoyl-phenyl)-amide
The title compound was prepared from 7-difluoromethyl-5-(3-ethoxy-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.12) and 3-amino-N-cyclopropyl-benzenesulfonamide [CAS 459434-39-0] according to general procedure II. Yellow solid. MS (ISP) 594.1 [(M−H)−]; mp 213° C.

reactant | 7-difluoromethyl-5-(3-ethoxy-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC(=C(C=C2)C(F)(F)F)OCC)F | C17H12F5N3O3
reactant | 3-amino-N-cyclopropyl-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NC1CC1 | C9H12N2O2S
product | 7-Difluoromethyl-5-(3-ethoxy-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-cyclopropylsulfamoyl-phenyl)-amide | C1(CC1)NS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC(=C(C=C2)C(F)(F)F)OCC | C26H22F5N5O4S
